US08076358B2
Step G: 3-(Tetrahydro-pyran-4-ylmethyl)-6-{3-[(2,4,6-trimethyl-benzylamino)-methyl]-phenylsulfanyl}-quinolin-2-ylamine
6-(3-[1,3]Dioxan-2-yl-phenylsulfanyl)-3-(tetrahydro-pyran-4-ylmethyl)-quinolin-2-ylamine (40 mg, 0.1 mmol) was dissolved in acetic acid (1 mL) and then 2,4,6-trimethylbenzyl amine (0.1 g, 0.67 mmol) was added. The resulting mixture was subjected to μwave @ 300W, 100° C. for 12 min. The resulting mixture was evaporated under reduced pressure (high vacuum) overnight. Methanol (2 mL) was added, followed by addition of NaBH4 (0.2 g, 5.2 mmol, portionwise) over 1.5 h. The solvent was removed to yield a residue, to which was added 0.1 N NaOH (5 ml). The resulting mixture was extracted with chloroform (3×). The organic layers were combined and dried with MgSO4 and then filtered. The solvent was removed to yield the title compound as a residue, which was purified by reverse phase chromatography (10-90% CH3CN/H2O/0.1% TFA). The product containing fractions were treated with 1N HCl (1 mL) to yield the title compound, 3-(tetrahydro-pyran-4-ylmethyl)-6-{3-[(2,4,6-trimethyl-benzylamino)-methyl]-phenylsulfanyl}-quinolin-2-ylamine, as a residue.

reactant | 6-(3-[1,3]Dioxan-2-yl-phenylsulfanyl)-3-(tetrahydro-pyran-4-ylmethyl)-quinolin-2-ylamine | 0.1 mmol, 40 mg | O1C(OCCC1)C=1C=C(C=CC1)SC=1C=C2C=C(C(=NC2=CC1)N)CC1CCOCC1 | C25H28N2O3S
reactant | 2,4,6-trimethylbenzyl amine | 0.67 mmol, 0.1 g | CC1=C(CN)C(=CC(=C1)C)C | C10H15N
reactant | NaOH | 0.1 N, 5 ml | [OH-].[Na+]
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
product | 3-(Tetrahydro-pyran-4-ylmethyl)-6-{3-[(2,4,6-trimethyl-benzylamino)-methyl]-phenylsulfanyl}-quinolin-2-ylamine | O1CCC(CC1)CC=1C(=NC2=CC=C(C=C2C1)SC1=CC(=CC=C1)CNCC1=C(C=C(C=C1C)C)C)N | C32H37N3OS
